US09034900B2
Step 2: 2-methyl-4-(3-methylsulfonyl-5-phenylmethoxyphenyl)isoquinolin-1-one
A capped mixture of 4-(3-hydroxy-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one (25 mg, 0.076 mmol), benzyl bromide (20 mg, 0.12 mmol), and Cs2CO3 (50 mg, 0.15 mmol) in DMF (600 uL) was heated to 80° C. for 3 h. The mixture was filtered and the filter cake was washed with ACN (500 uL), the filtrate was purified by prep-HPLC to afford the title compound (12 mg, 38%) as a tan solid. LCMS (M+H)+=420.

reactant | 4-(3-hydroxy-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one | 0.076 mmol, 25 mg | OC=1C=C(C=C(C1)S(=O)(=O)C)C1=CN(C(C2=CC=CC=C12)=O)C | C17H15NO4S
reactant | benzyl bromide | 0.12 mmol, 20 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Cs2CO3 | 0.15 mmol, 50 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 600 uL | CN(C)C=O | C3H7NO
product | 2-methyl-4-(3-methylsulfonyl-5-phenylmethoxyphenyl)isoquinolin-1-one | 12 mg, 38% | CN1C(C2=CC=CC=C2C(=C1)C1=CC(=CC(=C1)OCC1=CC=CC=C1)S(=O)(=O)C)=O | C24H21NO4S
